US09388149B2
A solution of 25.0 g (0.08 mol, 1.0 eq) of methyl (S)-1-(2-fluoro-3-nitrobenzoyl)pyrrolidine-2-carboxylate in 250 ml of methanol in the presence of 7.0 g (28% by weight) of palladium on carbon at 10% was stirred under a hydrogen atmosphere at ambient temperature for 4 days. The reaction medium was filtered through celite and washed with 100 ml of methanol. The filtrate was evaporated. 22.80 g of methyl (S)-1-(3-amino-2-fluorobenzoyl)pyrrolidine-2-carboxylate were obtained in the form of a light oil. Quantitative yield.

reactant | methyl (S)-1-(2-fluoro-3-nitrobenzoyl)pyrrolidine-2-carboxylate | 0.08 mol, 25.0 g, 1.0 eq | FC1=C(C(=O)N2[C@@H](CCC2)C(=O)OC)C=CC=C1[N+](=O)[O-] | C13H13FN2O5
solvent | methanol | 250 ml | CO | CH4O
catalyst | palladium on carbon | 7.0 g | [Pd] | Pd
product | methyl (S)-1-(3-amino-2-fluorobenzoyl)pyrrolidine-2-carboxylate | 22.80 g, Quantitative yield | NC=1C(=C(C(=O)N2[C@@H](CCC2)C(=O)OC)C=CC1)F | C13H15FN2O3
